US04788199
A mixture of ethyl 2-phenyl-4-quinazolinepropionate (4.3 g) and diethylamine (30 cc) is heated to 250°C. for 40 hours. After the mixture is cooled, the excess diethylamine is evaporated off. The residue is chromatographed on silica gel with a cyclohexane/ethyl acetate (1:1 by volume) mixture as eluant. The product (3.2 g) is recovered and recrystallized in isopropyl ether. N,N-Diethyl-2-phenyl-4-quinazolinepropanamide (2.2 g), m.p. 103° C., is obtained.

reactant | ethyl 2-phenyl-4-quinazolinepropionate | 4.3 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)CCC(=O)OCC | C19H18N2O2
solvent | diethylamine | 30 cc | C(C)NCC | C4H11N
product | N,N-Diethyl-2-phenyl-4-quinazolinepropanamide | 2.2 g | C(C)N(C(CCC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1)=O)CC | C21H23N3O
